US06329370B1
4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one (Compound 19)
A suspension of 3-(3,5-dichloro-pyridin-4-ylmethylene)-6-methoxy-3H-isobenzofuran-1-one (84.4 g, 0.126 mole), prepared as described in example 37, in CH3OH (200 ml) under N2 was added with hydrazine monohydrate (18.4 ml, 0.378 mole). The mixture was refluxed for 1 hour, then left overnight at room temperature and cooled over ice. The solid was filtered, washed with cold CH3OH and dried in oven at 50° C. under vacuum; 33.3 g of the title compound were thus obtained (yield: 80%). m.p.: 259-262° C.

reactant | 3-(3,5-dichloro-pyridin-4-ylmethylene)-6-methoxy-3H-isobenzofuran-1-one | 0.126 mole, 84.4 g | ClC=1C=NC=C(C1C=C1OC(C2=CC(=CC=C12)OC)=O)Cl | C15H9Cl2NO3
reactant | hydrazine monohydrate | 0.378 mole, 18.4 ml | O.NN
solvent | CH3OH | 200 ml | CO | CH4O
product | 4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one | 33.3 g, yield: 80% | ClC=1C=NC=C(C1CC1=NNC(C2=CC(=CC=C12)OC)=O)Cl | C15H11Cl2N3O2
